US05489593
1-(2-Nitrophenyl)piperazine
Piperazine (24.46 g) is dissolved in acetonitrile (200 ml) and anhydrous potassium carbonate (10.47 g) is added. Then 2-chloronitrobenzene (10.0 g) is added dropwise. After stirring 1 hr at 20°, the reaction mixture is diluted with methylene chloride, washed with water, and saturated aqueous potassium carbonate. After drying over anhydrous sodium sulfate, the reaction mixture is concentrated under reduced pressure to give the title compound, NMR (300 MHz, CDCl3) 7.75, 7.49, 7.14, 7.04, 3.03 and 1.93 δ.

reactant | Piperazine | 24.46 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 10.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloronitrobenzene | 10.0 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-Nitrophenyl)piperazine | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
